US08859773B2
A solution of ethyl 3-iodo-1-isopropyl-1H-pyrazole-4-carboxylate (740 mg, 2.40 mmol) in tetrahydrofuran (20 mL) was cooled to −78° C. and treated with diisobutylaluminum hydride (1.5 M in toluene, 0.8 mL, 7.21 mmol), dropwise. The mixture was stirred at −78° C. for 1 hour and then warmed to room temperature for 2 hours. The mixture was quenched with 10 mL ethyl acetate, stirred 15 minutes, and then treated with 25 mL saturated aqueous Rochelle's salts. After stirring an additional 1 hour at room temperature, the mixture was diluted with 50 mL ethyl acetate and washed with 100 mL water. The aqueous layer was extracted with an additional 50 mL ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was then purified by flash chromatography (12-100% ethyl acetate/heptanes, 25 g silica gel) to yield 630 mg of (3-iodo-1-isopropyl-1H-pyrazol-4-yl)methanol as a clear oil. +APCI (M+H) 266.8; 1H NMR (400 MHz, CDCl3, δ): 7.37 (s, 1H), 4.49 (m, 3H), 1.67 (t, J=5.9 Hz, 1H), 1.50 (s, 6H).

reactant | ethyl 3-iodo-1-isopropyl-1H-pyrazole-4-carboxylate | 2.40 mmol, 740 mg | IC1=NN(C=C1C(=O)OCC)C(C)C | C9H13IN2O2
reactant | diisobutylaluminum hydride | 7.21 mmol, 1.5 M, 0.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (3-iodo-1-isopropyl-1H-pyrazol-4-yl)methanol | 630 mg | IC1=NN(C=C1CO)C(C)C | C7H11IN2O
